* Z:\home\bean\RadioNotes\Draft3.asc
V1 N005 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq})
R1 P001 N005 330
Q1 N003 N006 P002 0 2N3904
R2 N001 N003 330
V2 N001 0 12
R3 N006 0 2k
R4 P002 0 33
R5 N001 N006 20k
C1 N006 P001 10p
C2 N004 N003 10p
R6 N001 N004 47k
R7 N004 0 5k
Q2 N002 N004 P003 0 2N3904
R8 N001 N002 120
R9 P003 0 5
R10 P004 0 7k
R11 N001 P004 10k
C3 P004 N002 10p
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.tran 0 10u 9u
.param freq 28074000
.backanno
.end
